reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([C:5]#[C:6][H:12])[H:10])([H:7])[H:9].[C:3](=[O:4])([H:8])[H:11]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],48.94607217022049
[C+:2]([O:3][H:11])=[C:4]([O-:5])[C:6]([H:12])([H:13])[H:14].[C:1]([H:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],16.61969169143569
[N:1](=[C:2]=[C:7]([C@:6]1([H:9])[N:4]=[N:3][O:5]1)[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],19.290885126287492
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N+:2]([C-:3]([C:4]#[N:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],67.2143849740256
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](\[O:4][H:14])[H:13])[H:12])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:11])[H:17])([H:15])[H:16],58.738288042140894
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])/[C:6]1=[N:7]/[H:8],93.43415876054708
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C@@:4]1([H:15])[O:5][C:6]1([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],114.514568694953
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])[H:9].[O:3]([H:10])[H:12],68.6754956328974
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2][C@@:4]([C:3]([H:9])([H:10])[H:11])([O:5][H:13])[H:12])([H:6])([H:7])[H:8],67.7146059710701
[O:1]([C:2]([C:3]([O+:5]=[C-:4][C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],49.49399659655951
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([H:6])([H:7])([H:8])[H:11].[C:2](=[C:3]([C:4](=[O:5])[H:13])[H:12])([H:9])[H:10],94.5942144360559
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:7](=[C:6])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],17.093441806636996
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:5])[C:6](=[O:4])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],69.41122733428661
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[H:14])[H:11])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:13])[H:15],73.601660324359
[N:1]([C:2](=[O:3])[H:8])([O:6][C:5](=[C:4]([H:9])[H:10])[H:11])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],44.4771597208394
[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](=[N:2][C:3](=[O:4])[H:10])([H:8])[H:9].[H:7][H:11],88.5520114880768
[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N+:1](#[C-:2])[C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],59.9827834384167
[C-:6]#[O+:7].[C:1]([C:2]([O:3][C:4](=[C:5]([H:14])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],44.27697393795741
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:3]([C:4](=[O:5])[H:11])([H:7])([H:9])[H:10].[O:1]([C:2][H:8])[H:6],79.50910883515179
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[H:9][H:11].[O:1]([C:2]([C:3](=[C:4]=[O:5])[H:10])([H:7])[H:8])[H:6],80.2749647377924
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[C:5](=[O:6])[H:12])[H:10])[H:11])([H:7])([H:8])[H:9],44.1522858723921
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O+:5]=[C-:6][O:7][H:13])[H:12])[H:8],76.8809215625069
[C:1](/[C:2](=[C:3](\[N:4]=[C:5](/[O:6][H:13])[C:7]([H:16])([H:17])[H:18])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][H:15]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],61.28430160298979
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C@@:4]1([H:14])[O:5][C:6]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],112.26515883150199
